US06916822B2
(b) 2-(4-Diethylcarbamoylphenyl)anisole
4-Diethylcarbamoyl-1-iodobenzene (100 mg) was dissolved in dimethoxyethane (1 ml), added with tetrakis(triphenylphosphine)palladium (19.1 mg) under argon atmosphere, and stirred at room temperature for 10 minutes. The reaction mixture was added with the solution of (2-methoxyphenyl)boric acid (100 mg) dissolved in toluene (0.5 ml) prepared above and a solution of sodium carbonate (105 mg) dissolved in water (0.5 ml) and stirred at 90° C. for 5.5 hours. The reaction mixture was added with water (2 ml) and extracted twice with dichloromethane (4 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=3:1) to obtain 81.9 mg of the title compound. Yield: 88%.

reactant | 4-Diethylcarbamoyl-1-iodobenzene | 100 mg | C(C)N(C(=O)C1=CC=C(C=C1)I)CC | C11H14INO
reactant | (2-methoxyphenyl)boric acid | 100 mg | COC1=C(C=CC=C1)OB(O)O | C7H9BO4
reactant | sodium carbonate | 105 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 1 ml | C(OC)COC | C4H10O2
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 19.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 ml | O | H2O
product | 2-(4-Diethylcarbamoylphenyl)anisole | 81.9 mg, Yield: 88% | C(C)N(C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC)CC | C18H21NO2
